US07223776B2
16.b) 8-[2-(6-Methoxy-[1,5]naphthyridin-4-yl)-ethyl]-1,4-dioxa-spiro[4.5]decan-8-ol
A solution of 8-(6-methoxy-[1,5]naphthyridin-4-ylethynyl)-1,4-dioxa-spiro[4.5]decan-8-ol (965 mg, 2.8 mmol) in ethanol (100 ml) was hydrogenated for 6 hours over PtO2 (200 mg) at 1 bar of hydrogen. The catalyst was filtered off and replaced by fresh catalyst and the hydrogenation was continued for a further 3 hours. The catalyst was filtered off and the solvent was concentrated. The crude product was purified by chromatography on silica gel (EtOAc).

reactant | 8-(6-methoxy-[1,5]naphthyridin-4-ylethynyl)-1,4-dioxa-spiro[4.5]decan-8-ol | 2.8 mmol, 965 mg | COC=1N=C2C(=CC=NC2=CC1)C#CC1(CCC2(OCCO2)CC1)O | C19H20N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | PtO2 | 200 mg | O=[Pt]=O
product | 8-[2-(6-Methoxy-[1,5]naphthyridin-4-yl)-ethyl]-1,4-dioxa-spiro[4.5]decan-8-ol | COC=1N=C2C(=CC=NC2=CC1)CCC1(CCC2(OCCO2)CC1)O | C19H24N2O4
